US04387049
A mixture of 4.8 g (0.02 m) of L-proline benzyl ester hydrochloride, 3.88 g (0.02 m) of α-(1-adamantyl)-acetic acid, 5.4 g (0.04 m) of 1-hydroxybenzotriazole, 2.56 ml of N-ethylmorpholine, 60 ml of dimethylformamide and 4.16 g (0.02 m) of dicyclohexylcarbodiimide was stirred overnight at 25°. The mixture was filtered and the tetrahydrofuran removed in vacuo from the filtrate to leave a residue which was taken up in 200 ml of ethyl acetate. The resulting extract was acidified with dilute hydrochloride acid. The layers were separated. The organic layer was extracted several times with ethyl acetate. The organic extracts were combined and washed with dilute acid, water, bicarbonate solution and brine then dried and evaporated to give an amber syrup of N-(1-adamantyl)-ethanoylproline benzyl ester, m/e=381. A second run on a 0.04 m scale gave 16.2 g of ester.

reactant | L-proline benzyl ester hydrochloride | 4.8 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | α-(1-adamantyl)-acetic acid | 3.88 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | 1-hydroxybenzotriazole | 5.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 2.56 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 4.16 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(1-adamantyl)-ethanoylproline benzyl ester | C(C1=CC=CC=C1)OC([C@]1(N(CCC1)C12CC3CC(CC(C1)C3)C2)C(C)=O)=O | C24H31NO3
